US05563151
A stirred suspension of L-leucine ethyl ester hydrochloride (8.38 g, 45 mmol) in dry THF (80 ml) at room temperature was treated with triethylamine (6.3 ml, 45 mmol). The reaction mixture was treated with 6-bromohexanoyl chloride (6.91 ml, 45 mmol). The reaction mixture was stirred for 4 h at room temperature and then diluted with a mixture of saturated aqueous ammonium chloride and ethyl acetate. The organic layer was separated, washed with saturated aqueous ammonium chloride, dried over anhydrous sodium sulphate, filtered and evaporated under reduced pressure to give N-6-bromohexanoyl-L-leucine ethyl ester (12.1 g, 80%) as an oil which was used for the next step without further purification.

reactant | L-leucine ethyl ester hydrochloride | 45 mmol, 8.38 g | Cl.C(C)OC([C@@H](N)CC(C)C)=O
reactant | triethylamine | 45 mmol, 6.3 ml | C(C)N(CC)CC | C6H15N
reactant | 6-bromohexanoyl chloride | 45 mmol, 6.91 ml | BrCCCCCC(=O)Cl | C6H10BrClO
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-6-bromohexanoyl-L-leucine ethyl ester | 12.1 g, 80% | C(C)OC([C@@H](NC(CCCCCBr)=O)CC(C)C)=O | C14H26BrNO3
